US07943607B2
2-({3-[(2,4-Difluorophenyl)thio]propyl}oxy tetrahydro-2H-pyran
Sodium hydride (60% dispersion in mineral oil) (120 mg, 3.01 mmol) was added to a solution of 2,4-difluorothiophenol (0.4 g, 2.74 mmol) in THF (10 mL) at 0° C., under argon. The reaction was allowed to warm to RT and 2-(3-bromopropoxy)tetrahydro-2H-pyran (672 mg, 3.01 mmol) added. The reaction was stirred at RT for 4 hours then poured into iced water (50 mL) and extracted into ethyl acetate (50 mL). The organics were washed with brine (50 mL), dried (MgSO4), filtered and the solvent removed in vacuo to give a yellow oil which was chromatographed on silica, eluting with 0-10% ethyl acetate in isohexane, to give the desired compound as a colourless oil (610 mg). 1H NMR δ (CDCl3): 1.49-1.61 (m, 4H), 1.65-1.73 (m, 1H), 1.75-1.90 (m, 3H), 2.96 (t, 2H), 3.46-3.52 (m, 2H), 3.79-3.87 (m, 2H), 4.55-4.56 (m, 1H), 6.80-6.86 (m, 2H), 7.38-7.44 (m, 1H)

reactant | Sodium hydride | 3.01 mmol, 120 mg | [H-].[Na+]
reactant | 2,4-difluorothiophenol | 2.74 mmol, 0.4 g | FC1=C(C=CC(=C1)F)S | C6H4F2S
reactant | 2-(3-bromopropoxy)tetrahydro-2H-pyran | 3.01 mmol, 672 mg | BrCCCOC1OCCCC1 | C8H15BrO2
reactant | water | 50 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | {3-[(2,4-Difluorophenyl)thio]propyl}oxy tetrahydro-2H-pyran | 610 mg | FC1=C(C=CC(=C1)F)SCCCOC1OCCCC1 | C14H18F2O2S
